US07687222B2
Under ice cooling and stirring, hydrogen chloride was blown into a mixture of 128 g of (1-methylcyclohexyl)methanol, 400 g of hexane, and 36 g of paraformaldehyde, until the is reactant alcohol disappeared on gas chromatography analysis. The excess hydrogen chloride was purged by feeding nitrogen into the reactor, after which the water layer was removed by separatory operation. The solution was dried over magnesium sulfate and the solids filtered off, yielding a hexane solution of chloromethyl[(1-methylcyclohexyl)methyl] ether.

reactant | hydrogen chloride | Cl | ClH
reactant | (1-methylcyclohexyl)methanol | 128 g | CC1(CCCCC1)CO | C8H16O
reactant | paraformaldehyde | 36 g | C=O | CH2O
solvent | hexane | 400 g | CCCCCC | C6H14
product | chloromethyl[(1-methylcyclohexyl)methyl] ether | ClCOCC1(CCCCC1)C | C9H17ClO
